US08211904B2
Step 1: methyl 3-allylbenzoate
To a solution of methyl 3-bromobenzoate (10.0 g, 46.5 mmol) in DMF (50 mL) was added ally tributyltin (23.1 g, 69.8 mmol) followed by tetrakis(triphenylphoshine) palladium(0) (1.08 g, 0.93 mmol). After stirring 80° C. overnight the reaction mixture was poured into H2O (500 mL), extracted with ethyl acetate (three times), dried over MgSO4 and concentrated under vacuum to afford the desired product.

reactant | methyl 3-bromobenzoate | 46.5 mmol, 10.0 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | tributyltin | 69.8 mmol, 23.1 g | C(CCC)[Sn](CCCC)CCCC
reactant | H2O | 500 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 3-allylbenzoate | C(C=C)C=1C=C(C(=O)OC)C=CC1 | C11H12O2
